US09260397B2
1-(3,5-bis-trifluoromethylphenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 3.60 mmol (1.00 g) 1-(3,5-bis-trifluoromethylphenyl)imidazole and 4.30 mmol (0.770 g, 0.67 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 18 h to 90° C.

reactant | 1-(3,5-bis-trifluoromethylphenyl)imidazole | 3.60 mmol, 1.00 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C=NC=C1)(F)F | C11H6F6N2
reactant | 1-bromoheptane | 4.30 mmol, 0.67 ml, 0.770 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(3,5-bis-trifluoromethylphenyl)-3-heptyl imidazolium bromide | [Br-].FC(C=1C=C(C=C(C1)C(F)(F)F)[N+]1=CN(C=C1)CCCCCCC)(F)F | InChI=1S/C18H21F6N2.BrH/c1-2-3-4-5-6-7-25-8-9-26(13-25)16-11-14(17(19,20)21)10-15(12-16)18(22,23)24;/h8-13H,2-7H2,1H3;1H/q+1;/p-1
